US05696146
Ethyl 4-(3-[(3,4-dihydroxyphenyl)methylcarbonyl]indol-1-yl)butanoate
Ethyl 4-(3-[(2,2-di[4-chlorophenyl]-1,3-benzodioxolan-5-yl)methylcarbonyl]indol-1-yl)butanoate (9.5 g) (see Preparation 9) was dissolved in acetic acid/water (9:1 ) (100 ml) and heated under reflux for one hour. The reaction mixture was cooled, evaporated to dryness and partitioned between ethyl acetate and brine. The organic layer was separated, dried (MgSO4) and evaporated to a brown oil. Flash chromatography (silica, eluant=10:1 dichloromethane/ethanol) gave the title compound as a pale tan solid (4.5 g). LRMS m/z=382 (m+1)+.

reactant | Ethyl 4-(3-[(2,2-di[4-chlorophenyl]-1,3-benzodioxolan-5-yl)methylcarbonyl]indol-1-yl)butanoate | 9.5 g | ClC1=CC=C(C=C1)C1(OC2=C(O1)C=CC(=C2)CC(=O)C2=CN(C1=CC=CC=C21)CCCC(=O)OCC)C2=CC=C(C=C2)Cl | C35H29Cl2NO5
solvent | acetic acid water | 100 ml | C(C)(=O)O.O
product | Ethyl 4-(3-[(3,4-dihydroxyphenyl)methylcarbonyl]indol-1-yl)butanoate | 4.5 g | OC=1C=C(C=CC1O)CC(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)OCC | C22H23NO5
